US04997844
Using a similar procedure to that described in Example 185, but starting from methyl 4-(6-amino-5-bromoindol-1-ylmethyl)-3-methoxybenzoate (GG) and cyclopentylacetic acid, methyl 4-[5-bromo-6-cyclopentylacetamidoindol-1-ylmethyl]-3-methoxybenzoate was obtained in 60% yield as an off-white solid; partial NMR: 1.6 [br m,8H,(CH2)4 ], 3.8 (s,3H,OCH3), 3.9 (s,3H,OCH3), 5.3 (s,2H,NCH2), 6.4 (dd,1H,H3-indole), 7.1 (d,1H,H2 -indole), 7.7 (br, 1H,NH), 7.8 (s,1H,H4 -indole), 8.5 (br s,1H,H7 -indole).

reactant | methyl 4-(6-amino-5-bromoindol-1-ylmethyl)-3-methoxybenzoate | NC1=C(C=C2C=CN(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC)Br | C18H17BrN2O3
reactant | cyclopentylacetic acid | C1(CCCC1)CC(=O)O | C7H12O2
product | methyl 4-[5-bromo-6-cyclopentylacetamidoindol-1-ylmethyl]-3-methoxybenzoate | 60% yield | BrC=1C=C2C=CN(C2=CC1NC(CC1CCCC1)=O)CC1=C(C=C(C(=O)OC)C=C1)OC | C25H27BrN2O4
